US05925658
(3b) N-[(1S)-1-Methyl-2-nitroxyethyl]-(2R)-2-t-butoxycarbonylamino-3-t-butoxycarbonylthiopropanamide
In 25 ml of dry acetonitrile were dissolved 1.24 g of nitronium tetrafluoroboron (85% content), 1.12 g of 2,4,6-collidine was added thereto with stirring under ice-cooling, and the mixture was stirred under ice-cooling for 30 minutes. Then, a solution obtained by dissolving 2.5 g of N-[(1S)-1-methyl-2-hydroxyethyl]-(2R)-2-t-butoxycarbonylamino-3-t-butoxycarbonylthiopropanamide in 25 ml of dry acetonitrile was added to the mixture and the resulting mixture was stirred at room temperature for 3 hours. Then, the solvent was distilled off under reduced pressure and the thus obtained residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (4:1) as an eluent to obtain 1.39 g of the desired compound as pale yellow crystals.

reactant | nitronium tetrafluoroboron | 1.24 g | [B-](F)(F)(F)F.[N+](=O)=O
reactant | 2,4,6-collidine | 1.12 g | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | N-[(1S)-1-methyl-2-hydroxyethyl]-(2R)-2-t-butoxycarbonylamino-3-t-butoxycarbonylthiopropanamide | 2.5 g | C[C@@H](CO)NC([C@@H](CC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=S | C16H30N2O5S
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-[(1S)-1-Methyl-2-nitroxyethyl]-(2R)-2-t-butoxycarbonylamino-3-t-butoxycarbonylthiopropanamide | 1.39 g | C[C@@H](CO[N+](=O)[O-])NC([C@@H](CC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=S | C16H29N3O7S
